US04202824
Production of tetrahydroesterastin
Esterastin (95 mg) was taken up into 10 ml of methanol, and this methanolic solution of esterastin was admixed with 20 mg of platinum oxide as the hydrogenation catalyst. The mixture was subjected to hydrogenation with hydrogen gas at 20 lbs. per square inch at ambient temperature for 2 hours. After the reduction was completed, the reaction mixture was filtered to remove the platinum oxide. The filtrate (the reaction solution) was concentrated to dryness to yield 96 mg of a colorless powder of tetrahydroesterastin which gave a single spot in a silica gel thin layer chromatography.

reactant | Esterastin | 95 mg | CCCCCCC1C(OC1=O)CC(CC=CCC=CCCCCC)OC(=O)C(CC(=O)N)NC(=O)C | C28H46N2O6
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 20 mg | [Pt]=O
solvent | methanol | 10 ml | CO | CH4O
product | tetrahydroesterastin | 96 mg | CCCCCCCCCCC[C@H](C[C@H]1[C@@H](C(=O)O1)CCCCCC)OC(=O)[C@H](CC(=O)N)NC(=O)C | C28H50N2O6
